US08258141B2
A1: Imidazole-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide
A suspension comprising CDI (2.29 g, 14 mmol) and triethylamine (3.8 ml, 27 mmol) in dry DCM (20 ml) is treated portionwise over 5 minutes with 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylamine dihydrochloride (prepared using the procedure described in international patent application WO 01/94368) (2.88 g, 13 mmol). The reaction mixture is stirred at room temperature for 4.5 hours to yield the title compound as a 0.43 M solution in DCM.

reactant | CDI | 14 mmol, 2.29 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | triethylamine | 27 mmol, 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylamine dihydrochloride | Cl.Cl.N1(CCC(CC1)N)C1=NC=CC=C1
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | Imidazole-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide | N1(CCC(CC1)NC(=O)N1C=NC=C1)C1=NC=CC=C1 | C14H17N5O
